US07994324B2
rac-N2-Indan-2-yl-quinoline-2,5-diamine
The title compound, MS: m/e=276.0 (M+H+), was prepared in accordance with the general method of example 16 from 5-nitro-2-chloroquinoline and indane-2-ylamine.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | indane-2-ylamine | C1C(CC2=CC=CC=C12)N | C9H11N
product | rac-N2-Indan-2-yl-quinoline-2,5-diamine | C1C(CC2=CC=CC=C12)NC1=NC=2C=CC=C(C2C=C1)N | C18H17N3
